US07820683B2
5-[(1R)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (200 mg, 0.44 mmol) was reacted with pyrrolidine (0.22 ml, 2.6 mmol) to give the title compound as a beige solid (152 mg, 70%), except that 3 Å molecular sieve was added and that the crude material was purified on an HPLC column (C18, 5 microns, 19 mm diameter, 100 mm length) of a preparative HPLC-MS system eluting with a mixture of water and acetonitrile containing 2 g/l of ammonium carbonate (gradient). NMR Spectrum 1.60 (d, 3H), 1.81 (m, 2H), 1.94 (m, 2H), 3.47-3.30 (m, 3H), 3.77 (m, 1H), 5.62 (q, 1H), 5.77 (s, 2H), 6.95 (d, 1H), 7.28 (m, 2H), 7.35 (d, 1H), 7.74-7.68 (m, 3H), 7.82 (dd, 1H), 8.15 (s, 1H), 8.53 (m, 3H), 11.07 (br s, 1H); Mass spectrum MH+ 494.

reactant | methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.44 mmol, 200 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C25H22N6O3
reactant | pyrrolidine | 2.6 mmol, 0.22 ml | N1CCCC1 | C4H9N
product | 5-[(1R)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-N-[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]quinazolin-4-amine | 152 mg, 70% | C[C@H](C(N1CCCC1)=O)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1 | C28H27N7O2
